US08252936B2
To a solution of 4-amino-thiophene-2-carboxylic acid [2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-amide (360 mg, 0.87 mmol) (Example I3) in tetrahydrofuran (20 ml) was added N-bromosuccinimide (NBS) (155 mg, 0.87 mmol). The mixture was stirred at room temperature for 1.5 hours. Water (50 ml) was added and the organic phase was extracted twice with ethyl acetate (50 ml). The combined organic extracts were dried over sodium sulfate and the solvent evaporated. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/hexane) to give 5-bromo-4-amino-thiophene-2-carboxylic acid [2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-amide (343 mg; 80% yield); 1H-NMR (CDCl3, 400 MHz): 7.26 (s, 2H), 7.10 (s, 1H), 3.8 (s, 2H), 2.24 (s, 6H) ppm.

reactant | 4-amino-thiophene-2-carboxylic acid [2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-amide | 0.87 mmol, 360 mg | CC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C)NC(=O)C=1SC=C(C1)N | C16H13F7N2OS
reactant | N-bromosuccinimide | 0.87 mmol, 155 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | 50 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-bromo-4-amino-thiophene-2-carboxylic acid [2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-amide | 343 mg, 80% yield | CC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C)NC(=O)C=1SC(=C(C1)N)Br | C16H12BrF7N2OS
